US08138181B2
Step E: Preparation of 8-(trans-3-fluoropiperidin-4-yloxy)-2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinoline:
tert-Butyl trans-3-fluoro-4-(2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate (22 mg, 0.041 mmol) was added to 2 ml DCM at ambient temperature. TFA (2 mL) was added and the reaction was stirred for 1 hour, then diluted with DCM and water. The mixture was washed with 1N NaOH amine and extracted with DCM, followed by extraction with 20% IP A/Chloroform. The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by preparative TLC, eluting with 15% MeOH/0.5% NH4OH in DCM to provide the desired product as a film (5.6 mg, 31% yield). MS APCI (+) m/z 440.1 (M+1) detected.

reactant | tert-Butyl trans-3-fluoro-4-(2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate | 0.041 mmol, 22 mg | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)C=2C=NC=CC2)C(=O)OC(C)(C)C | C31H30FN5O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 8-(trans-3-fluoropiperidin-4-yloxy)-2-(7-(pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)quinoline | 31% yield | F[C@@H]1CNCC[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)C=2C=NC=CC2 | C26H22FN5O
